US06348474B1
In the same manner as in the following Preparation Example 14-2, 3-(2-chloro-4-phenylbenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carbonitrile (163 mg and 1-(2-chloro-4-phenylbenzyl)-2-methyl-1H-imidazo-[4,5-b]pyridine-5-carbonitrile (113 mg) were respectively obtained as pale-yellow crystals and pale-yellow amorphous from 2-methyl-1H-imidazo[4,5-b]pyridine-5-carbonitrile (200 mg).

reactant | 3-(2-chloro-4-phenylbenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carbonitrile | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C#N)C)C=CC(=C1)C1=CC=CC=C1 | C21H15ClN4
reactant | 1-(2-chloro-4-phenylbenzyl)-2-methyl-1H-imidazo-[4,5-b]pyridine-5-carbonitrile | 113 mg | ClC1=C(CN2C(=NC3=NC(=CC=C32)C#N)C)C=CC(=C1)C1=CC=CC=C1 | C21H15ClN4
product | 2-methyl-1H-imidazo[4,5-b]pyridine-5-carbonitrile | 200 mg | CC=1NC=2C(=NC(=CC2)C#N)N1 | C8H6N4
